US05135932
6-[1-(2-Acetaminoethyl)benztriazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone
15.98 g (55.3 mmol) of 6-(3-amino-4-acetaminoethylamino-phenyl)-4,5-dihydro-3(2H)-pyridazinone are dissolved in 300 ml of 2N sulphuric acid, then cooled to 2°-5° C. and a solution of 4.2 g (61 mmol) of sodium nitrite in 70 ml of water is slowly added dropwise with stirring. After about one hour the cooling bath is removed and the mixture is stirred for a further hour at ambient temperature. The solids precipitated are suction filtered, stirred into 100 ml of a 5% sodium bicarbonate solution and suction filtered again after 10 minutes.

reactant | 6-(3-amino-4-acetaminoethylamino-phenyl)-4,5-dihydro-3(2H)-pyridazinone | 55.3 mmol, 15.98 g | NC=1C=C(C=CC1NCCNC(=O)C)C=1CCC(NN1)=O | C14H19N5O2
reactant | sodium nitrite | 61 mmol, 4.2 g | N(=O)[O-].[Na+]
solvent | sulphuric acid | 2N, 300 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 70 ml | O | H2O
product | 6-[1-(2-Acetaminoethyl)benztriazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | N(C(=O)C)CCN1N=NC2=C1C=CC(=C2)C=2CCC(NN2)=O | C14H16N6O2
